US06599902B2
To a solution of 2-(2-Oxo-2,3-dihydro-1H-indole-5-sulfonylmethyl)-benzonitrile (100 mg, 0.32 mmol) and 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (85 mg, 0.32 mmol) in ethanol (4 mL) was added piperidine (0.1 mL). The reaction mixture was stirred at 25° C. for three days. The solvent was evaporated and the residue was purified on a silica gel column eluting with MeOH—CH2Cl2 1:9 to provide 116 mg (65%) of [5-(2-Cyano-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide as a pale orange solid.

reactant | 2-(2-Oxo-2,3-dihydro-1H-indole-5-sulfonylmethyl)-benzonitrile | 0.32 mmol, 100 mg | O=C1NC2=CC=C(C=C2C1)S(=O)(=O)CC1=C(C#N)C=CC=C1 | C16H12N2O3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 0.32 mmol, 85 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | [5-(2-Cyano-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 116 mg, 65% | C(C)N(CCNC(=O)C1=C(N(C=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1)C#N)=O)C)CC | C30H33N5O4S
